US07186729B2
Step 2: 1-Benzyl-4-(4-chloro-phenylamino)-piperidine-4-carboxylic acid methyl ester
To a solution of 1-Benzyl-4-(4-chloro-phenylamino)-piperidine-4-carboxylic acid amide (1.19 g 3.46 mmol) in methanol (10 ml) in a sealed tube was added toluene sulfonic acid (2.33 g, 12.11 mmol). The reaction was heated to 120° C., and stirred at that temperature behind a blast shield for 5 days. The reaction was then allowed to cool to room temperature at which time it was worked up by diluting with water, then by adding concentrated ammonium hydroxide until the pH≈8. The mixture was extracted three times with ethyl acetate and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The yellow oil was used crude (744 mg, 60%).

reactant | 1-Benzyl-4-(4-chloro-phenylamino)-piperidine-4-carboxylic acid amide | 3.46 mmol, 1.19 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)NC1=CC=C(C=C1)Cl | C19H22ClN3O
reactant | toluene sulfonic acid | 12.11 mmol, 2.33 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | 1-Benzyl-4-(4-chloro-phenylamino)-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCN(CC1)CC1=CC=CC=C1)NC1=CC=C(C=C1)Cl | C20H23ClN2O2
